US05627182
a1) N-tert-butoxycarbonyl-2(R)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(3-benzyloxy-4-methoxy-phenyl)-octanoic acid (N-butyl)amide
3.5 g of N-tert-butoxycarbonyl-2-methylene-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(3-benzyloxy-4-methoxy-phenyl)-octanoic acid (N-butyl)amide are hydrogenated in 30 ml of absolute methanol in the presence of 20 mg of [Ru2Cl4 ((S)-Binap)2 ]-NEt3 at room temperature and 25 bar for 5 hours. The reaction mixture is filtered and the filtrate is concentrated by evaporation. The residue is purified by FC (200 g of silica gel, hexane/ethyl acetate=1:1). Title compound: Rf (hexane/ethyl acetate=1:1)=0.16; FAB-MS (M+H)+ =599.

reactant | N-tert-butoxycarbonyl-2-methylene-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(3-benzyloxy-4-methoxy-phenyl)-octanoic acid (N-butyl)amide | 3.5 g | C(CCC)NC(C(C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)C(C)C)NC(=O)OC(C)(C)C)O)=C)=O | C35H52N2O6
solvent | methanol | 30 ml | CO | CH4O
product | N-tert-butoxycarbonyl-2(R)-methyl-4(S)-hydroxy-5(S)-amino-7(S)-isopropyl-8-(3-benzyloxy-4-methoxy-phenyl)-octanoic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@@H]([C@H](C[C@H](CC1=CC(=C(C=C1)OC)OCC1=CC=CC=C1)C(C)C)NC(=O)OC(C)(C)C)O)C)=O | C35H54N2O6
